US08957069B2
1-(4-Fluorophenyl)-4-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 5-bromo-7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran (600 mg, 2.10 mmol) synthesized in Reference example 94 and 1-(4-fluorophenyl)piperazine (757 mg, 4.20 mmol), the reaction was carried out in the same manner as Example 1 to synthesize the title compound 397 mg (yield 49%).

reactant | 5-bromo-7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran | 2.10 mmol, 600 mg | BrC=1C(=C(C2=C(CC(O2)(C)C)C1C)OC)C | C13H17BrO2
reactant | 1-(4-fluorophenyl)piperazine | 4.20 mmol, 757 mg | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
product | 1-(4-Fluorophenyl)-4-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 397 mg, yield 49% | FC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)OC)C | C23H29FN2O2
